US09126931B2
3-Fluoro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one
Under nitrogen atmosphere, to the THF (1.8 mL)-water (0.18 mL) solution of 3-fluoro-8-methoxy-6,6-dimethyl-6,11-dihydro-5H-benzo[b]carbazole (Compound V2, 72.4 mg, 0.245 mmol), DDQ (122.4 mg, 0.539 mmol) was added and the mixture was stirred at room temperature for 5 hr. The reaction mixture was added with diethyl ether and 0.5 N aqueous solution of sodium hydroxide (2 mL), and the resulting mixture was extracted twice with diethyl ether. The organic layer was washed twice with 0.5 N aqueous solution of sodium hydroxide (2 mL) and subsequently twice with brine (2 mL), and dried over sodium sulfate. After concentration under reduced pressure, hexane/ethyl acetate (5:1) and diethyl ether were added to the obtained crude product, and the solid was triturated. After removing the supernatant and drying under reduced pressure, the title compound was obtained (yellow solid, 57.0 mg, 75%).

reactant | THF | 1.8 mL | C1CCOC1 | C4H8O
reactant | 3-fluoro-8-methoxy-6,6-dimethyl-6,11-dihydro-5H-benzo[b]carbazole | 0.245 mmol, 72.4 mg | FC1=CC=C2C=3CC4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC | C19H18FNO
reactant | DDQ | 0.539 mmol, 122.4 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | sodium hydroxide | 2 mL | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 0.18 mL | O | H2O
product | 3-Fluoro-8-methoxy-6,6-dimethyl-5,6-dihydro-benzo[b]carbazol-11-one | FC1=CC=C2C=3C(C4=C(C(C3NC2=C1)(C)C)C=C(C=C4)OC)=O | C19H16FNO2
